US06982348B2
To a solution of ethyl (1-naphthoyl)acetate (10.2 g, 39.9 mmol) in acetonitrile (100 ml) was added 4-(trifluoromethyl)benzyl bromide (9.54 g, 39.9 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was concentrated, diluted with water (500 ml) and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:toluene=1:1). To a solution of the crude product of the obtained monoalkyl form (7.46 g, 18.63 mmol) in ether (100 ml) was added a solution of Zn(NH4)2 in ether (100 ml), which was prepared from zinc chloride (5.07 g, 37.3 mmol) and sodium borohydride (2.82 g, 74.5 mmol), and the mixture was stirred at room temperature for 30 min. The reaction solution was ! poured into 1N aqueous hydrochloric acid solution (100 ml) and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene). To a solution of the crude product of the obtained reduced compound (3.74 g, 9.29 mmol) in methanol (40 ml) was added 1N aqueous sodium hydroxide solution (20 ml, 20 mmol) and the mixture was stirred at room temperature for 4 hrs. The reaction solution was poured into 1N aqueous hydrochloric acid solution (40 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from diisopropyl ether-hexane to give (2RS,3RS)-3-hydroxy-3-(1-naphthalenyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid (2.48 g, 16%).

reactant | ethyl (1-naphthoyl)acetate | 39.9 mmol, 10.2 g | C1(=CC=CC2=CC=CC=C12)C(=O)CC(=O)OCC | C15H14O3
reactant | 4-(trifluoromethyl)benzyl bromide | 39.9 mmol, 9.54 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | sodium borohydride | 74.5 mmol, 2.82 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | sodium hydroxide | 20 mmol, 1N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 40 ml | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methanol | 40 ml | CO | CH4O
catalyst | zinc chloride | 37.3 mmol, 5.07 g | [Cl-].[Zn+2].[Cl-]
product | (2RS,3RS)-3-hydroxy-3-(1-naphthalenyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid | 2.48 g, 16% | OC(C(C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC2=CC=CC=C12 | C21H17F3O3
